US04263291
2-(1,2,5-Thiadiazol-3-yl)glyoxylic acid (7.4 g.) and hydroxylamine hydrochloride (3.1 g.) were reacted in the presence of magnesium hydroxide (4.7 g.) according to a similar manner to that of Example 6(a)(3) to give 2-hydroxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid (syn isomer) (7.5 g.).

reactant | 2-(1,2,5-Thiadiazol-3-yl)glyoxylic acid | 7.4 g | S1N=C(C=N1)C(C(=O)O)=O | C4H2N2O3S
reactant | hydroxylamine hydrochloride | 3.1 g | Cl.NO
reactant | magnesium hydroxide | 4.7 g | [OH-].[Mg+2].[OH-]
product | 2-hydroxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid | 7.5 g | ON=C(C(=O)O)C1=NSN=C1 | C4H3N3O3S
